US06927303B2
According to the similar procedure in Synthesis Example 1, by using 4-amino-2-chlorophenol (3.00 g, 19.6 mmole), DMF (80 ml), TEA (0.5 ml), and 2,3,5,6-tetrafluoro-4-trifluoromethylbenzyl bromide (1.40 g, 8.36 mmole), 2.00 g (76.0% yield) of 2-chloro-5-(2,3,5,6-tetrafluoro-4-methylbenzylamino)phenol was obtained as a yellow solid.

reactant | 4-amino-2-chlorophenol | 19.6 mmole, 3.00 g | NC1=CC(=C(C=C1)O)Cl | C6H6ClNO
reactant | 2,3,5,6-tetrafluoro-4-trifluoromethylbenzyl bromide | 8.36 mmole, 1.40 g | FC1=C(CBr)C(=C(C(=C1F)C(F)(F)F)F)F | C8H2BrF7
reactant | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 2-chloro-5-(2,3,5,6-tetrafluoro-4-methylbenzylamino)phenol | 2.00 g, 76.0% yield | ClC1=C(C=C(C=C1)NCC1=C(C(=C(C(=C1F)F)C)F)F)O | C14H10ClF4NO
